US04232024
Diethyl N-(5methoxybenzthiazole-2-yl)-aminomethylene-malonate is, as described in Example 1A, Variant II, heated in a mixture of 10% aqueous sodium hydroxide solution and ethanol. Without isolating the 1-(2-mercapto-5-methoxyphenyl)-5-carboxypyrimidine-2,6-dione formed as intermediate, the reaction mixture is strongly acidified, 8-methoxy-1-oxo-1H-pyrimido[6,1-b]benzthiazole-4-carboxylic acid thereby precipitating out. The precipitate is subsequently stirred for about 1 hour in the acidic medium. After isolation and drying, the product has a melting point of 277°-278° C.

reactant | Diethyl N-(5methoxybenzthiazole-2-yl)-aminomethylene-malonate | COC=1C=CC2=C(N=C(S2)NC=C(C(=O)OCC)C(=O)OCC)C1 | C16H18N2O5S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 1-(2-mercapto-5-methoxyphenyl)-5-carboxypyrimidine-2,6-dione | SC1=C(C=C(C=C1)OC)N1C(NC=C(C1=O)C(=O)O)=O | C12H10N2O5S
